US08168651B2
5-chloropyrido[4,3-c][1,7]naphthyridine (10 mg) was mixed in NMP (0.3 ml) with 3-chloroaniline (60 ul) and the mixture was heated at 120° C. for 10 min. Water was added and the resulting solid was filtered and dried. N-(3-chlorophenyl)pyrido[4,3-c][1,7]naphthyridin-5-amine was isolated as a solid (5 mg). LCMS (ES)>95% pure, m/z 307 [M+1]+.

reactant | 5-chloropyrido[4,3-c][1,7]naphthyridine | 10 mg | ClC1=NC=2C=NC=CC2C2=C1C=CN=C2 | C11H6ClN3
reactant | 3-chloroaniline | 60 ul | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | Water | O | H2O
solvent | NMP | 0.3 ml | CN1CCCC1=O | C5H9NO
product | N-(3-chlorophenyl)pyrido[4,3-c][1,7]naphthyridin-5-amine | ClC=1C=C(C=CC1)NC1=NC=2C=NC=CC2C2=C1C=CN=C2 | C17H11ClN4
